US06201006B1
a) Synthesis of ethyl 5-bromoindole-2-carboxylate
In a 500 ml flask, 14 g of 4-bromophenylhydrazine hydrochloride was dissolved in 170 ml of ethanol, and 1.2 ml of sulfuric acid and 8.5 ml of ethyl pyruvate were added. The reaction mixture was stirred for about 2 hours at room temperature and evaporated under reduced pressure to dryness. To the residue was added 23 ml of polyphosphoric acid, and the resulting solution was then stirred for 2 hours at 100° C.-110° C. After water was added, the reaction solution was neutralized with saturated aqueous NaHCO3 solution and then extracted to times with ethyl acetate. The extracts were combined, dried over MgSO4 and then evaporated. The residue was purified with silica gel column chromatography [eluent: n-hexane/ethyl acetate(9:1)] to obtain 10 g of the title compound as a brown solid.

reactant | sulfuric acid | 1.2 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethyl pyruvate | 8.5 ml | C(C(=O)C)(=O)OCC | C5H8O3
reactant | 4-bromophenylhydrazine hydrochloride | 14 g | Cl.BrC1=CC=C(C=C1)NN
solvent | ethanol | 170 ml | C(C)O | C2H6O
product | ethyl 5-bromoindole-2-carboxylate | 10 g | BrC=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H10BrNO2
